US07915267B2
2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridine-4-carbonitrile
A solution of 2-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}pyridine-4-carbonitrile obtained in Reference Example 17 (3.40 g, 13.7 mmol), trityl chloride (5.73 g, 20.6 mmol) and triethylamine (2.87 mL, 20.6 mmol) in THF (30 mL) was stirred at room temperature for 15 hr. The mixture was concentrated under reduced pressure, and the residue was extracted with ethyl acetate and water. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated. The obtained oil was purified by silica gel column chromatography (20%-40% ethyl acetate/hexane) to give the title compound as a white powder (5.37 g, 80%).

reactant | 2-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}pyridine-4-carbonitrile | N1N=C(N=C1)SCCOC1=NC=CC(=C1)C#N | C10H9N5OS
reactant | trityl chloride | 20.6 mmol, 5.73 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 20.6 mmol, 2.87 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridine-4-carbonitrile | 5.37 g, 80% | C1(=CC=CC=C1)C(N1N=C(N=C1)SCCOC1=NC=CC(=C1)C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H23N5OS
